US07271406B2
Into a 250 ml flask fitted with a mechanical stirrer and thermometer was introduced 30 g (0.0686 mol) 2,5-dichlor-N′-[4-(octyloxy)benzoyl]benzohydrazide and 181 ml phosphorus oxychloride. This was refluxed and stirred for 8 hrs. About 100 ml of phosphorus oxychloride was distilled off under reduced pressure. The cooled residue was poured onto water and crushed ice with manual stirring and allowed to stand until the ice had melted. The precipitated white solid was collected by filtration, dried and recrystallized from ethanol. There was obtained 25.7 g (89% yield, mp 86° C.) of 2-(2,5-dichlorophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole. The structure was confirmed unambiguously by 1D and 2D NMR techniques and gave the following: 1H-NMR (500 MHz, CDCl3) 0.89 (3H, t), 1.31 (8H, m), 1.46 (2H, q), 1.79 (2H, q), 6.97 (2H, d), 7.38 (1H, dd), 7.44 (1H, d), 8.01 (2H, d), 8.06 (1H, d); 13C-NMR (500 MHz, CDCl3) 13.90, 22.44, 25.79, 28.91, 29.01, 29.13, 31.59, 68.08, 114.78, 115.37, 124.27, 128.58, 130.23, 130.87, 131.75, 132.20, 132.87, 161.03, 161.98, 164.95.

reactant | 2,5-dichlor-N′-[4-(octyloxy)benzoyl]benzohydrazide | 0.0686 mol, 30 g | ClC1=C(C(=O)NNC(C2=CC=C(C=C2)OCCCCCCCC)=O)C=C(C=C1)Cl | C22H26Cl2N2O3
reactant | phosphorus oxychloride | 181 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2,5-dichlorophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole | 25.7 g, 89% yield | ClC1=C(C=C(C=C1)Cl)C=1OC(=NN1)C1=CC=C(C=C1)OCCCCCCCC | C22H24Cl2N2O2
